US03941883
The mixture of 12.4 g of N-(4-nitro-o-tolyl)-4-chlorophthalimide, 1.0 lt. ethyl acetate and 10 ml of an ethanolic suspension containing 6.9 g of Raney nickel is hydrogenated at 2.8 atm. and room temperature for 12 hours. It is filtered, concentrated to about half of its original volume and the precipitate formed collected, to yield the N-(4-amino-o-tolyl)-4-chlorophthalimide melting at 201°-203°. Its 4-bromo-analog melts at 208°-211°.

reactant | N-(4-nitro-o-tolyl)-4-chlorophthalimide | 12.4 g | [N+](=O)([O-])C1=CC(=C(C=C1)C)N1C(C=2C(C1=O)=CC(=CC2)Cl)=O | C15H9ClN2O4
catalyst | Raney nickel | 6.9 g | [Ni] | Ni
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-amino-o-tolyl)-4-chlorophthalimide | NC1=CC(=C(C=C1)C)N1C(C=2C(C1=O)=CC(=CC2)Cl)=O | C15H11ClN2O2
